US07507734B2
a) 3-Oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4-carboxylic acid hydrazide
10 g of 3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4 -carboxylic acid ethyl ester are dissolved in 150 ml of ethanol, 4.2 ml of hydrazine hydrate is added and the mixture is refluxed for 5 hours. After cooling to room temperature, the solid is collected by filtration and dried in vacuo at 40° C.

reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4 -carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C12H11N3O3
reactant | hydrazine hydrate | 4.2 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4-carboxylic acid hydrazide | O=C1NN=C(C=C1C(=O)NN)C1=CC=NC=C1 | C10H9N5O2
